US09399646B2
(R)-2-Methylbutane-1,4-diyl dimethanesulfonate (37.5 g, 0.144 mol) was added to neat (S)-2-aminopropan-1-ol (54.8 g, 0.730 mol). The mixture was stirred in a room temperature water bath to minimize the exotherm. After 24 h, the reaction was diluted with dichloromethane (150 mL), sat'd K2CO3 solution (150 mL), and just enough water (60 mL) to dissolve the resulting ppt. The organic layer was separated, and the aqueous layer was extracted with dichloromethane (150 mL). The organic layers were combined, dried (Na2SO4), filtered, concentrated, and purified by silica gel chromatography (10:7; ethyl acetate:hexanes→10:7:2:1; ethyl acetate:hexanes:methanol:triethylamine) to give (S)-2-((R)-3-methylpyrrolidin-1-yl)propan-1-ol (17.9 g) as a pale yellow oil. 1H NMR (400 MHz, DMSO-d6): δ 4.33 (t, 1H), 3.48 (m, 1H), 3.18 (m, 1H), 2.79 (dd, 1H), 2.58 (m, 1H), 2.48 (m, 1H), 2.26 (m, 1H), 2.08 (m, 1H), 2.01 (dd, 1H), 1.88 (m, 1H), 1.20 (m, 1H), 0.98 (d, 3H), 0.96 (d, 3H); LCMS: 144.3 (M+H)+.

reactant | (R)-2-Methylbutane-1,4-diyl dimethanesulfonate | 0.144 mol, 37.5 g | CS(=O)(=O)OC[C@@H](CCOS(=O)(=O)C)C | C7H16O6S2
reactant | (S)-2-aminopropan-1-ol | 0.730 mol, 54.8 g | N[C@H](CO)C | C3H9NO
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
solvent | K2CO3 | 150 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | water | 60 mL | O | H2O
product | (S)-2-((R)-3-methylpyrrolidin-1-yl)propan-1-ol | 17.9 g | C[C@H]1CN(CC1)[C@H](CO)C | C8H17NO
